US07842713B2
Preparation of Intermediate 350b: 3-(Ethoxycarbonyl)-4-(4-methylthien-2-yl) but-3-enoic Acid
Sodium ethylate (71 g, 1.05 mol) was added under vigorous stirring to a solution of 4-methylthiopene-2-carbaldehyde (88 g, 80% purity, 0.56 mol) and diethyl succinate (183 g, 1.05 mol) in ethanol (1 L). The reaction mixture was refluxed for 3 h and evaporated in vacuum (˜20 mmHg) at 50° C. until the solvent distillation ceased. The obtained residue was diluted with 500 mL of 10% HCl and 500 mL of ethyl acetate. The mixture was shaken. The organic layer was separated, diluted with 1 L of a saturated aqueous solution of NaHCO3, and shaken. The aqueous layer was separated, neutralized by 10% HCl to pH 2, and subjected to extraction by 1 L of ethyl acetate. The organic layer was evaporated in vacuum (˜20 mmHg) at 60° C. and chromatographed on a layer of silica gel (300×150 mm) with hexane/ethyl acetate mixture, 1:1 as eluent. Fractions with the target product were collected and evaporated in vacuum to give the desired product 61 g (0.24 mol, 43%) as yellow crystals.

reactant | Sodium ethylate | 1.05 mol, 71 g | CC[O-].[Na+]
reactant | 4-methylthiopene-2-carbaldehyde | 0.56 mol, 88 g | CC=1C=C(SC1)C=O | C6H6OS
reactant | diethyl succinate | 1.05 mol, 183 g | C(CCC(=O)OCC)(=O)OCC | C8H14O4
solvent | ethanol | 1 L | C(C)O | C2H6O
product | 3-(Ethoxycarbonyl)-4-(4-methylthien-2-yl) but-3-enoic Acid | 0.24 mol, 61 g, 43% | C(C)OC(=O)C(CC(=O)O)=CC=1SC=C(C1)C | C12H14O4S
